US07713993B2
oxalyl chloride (0.63 mL) and DMF (1 drop) were added to a solution of 4-chloro-2-(3,4,5-trifluorophenyl)butyric acid (1.17 g) in methylene chloride (30 mL) at 0° C., and the reaction solution was stirred at room temperature for one hour. The reaction solution was concentrated under reduced pressure to obtain 4-chloro-2-(3,4,5-trifluorophenyl)butyryl chloride. A solution of 4-chloro-2-(3,4,5-trifluorophenyl)butyryl chloride in THF (5 mL) was added to a solution of tert-butyl carbazate (600 mg) and triethylamine (3.1 mL) in THF (20 mL) at 0° C., and the reaction solution was stirred at room temperature for one hour. The reaction solution was added to a saturated sodium bicarbonate solution, followed by extraction with ethyl acetate. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.35 g of the title compound. The property value of the compound is as follows.

reactant | oxalyl chloride | 0.63 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-chloro-2-(3,4,5-trifluorophenyl)butyric acid | 1.17 g | ClCCC(C(=O)O)C1=CC(=C(C(=C1)F)F)F | C10H8ClF3O2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-(3,4,5-trifluorophenyl)butyryl chloride | ClCCC(C(=O)Cl)C1=CC(=C(C(=C1)F)F)F | C10H7Cl2F3O
